US07145012B2
Preparation of 5-Bromo-1-(4-chloro-phenyl)-2-(2-chloro-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester (I-5d)
Bromine (3.6 ml, 0.07 mol) was added to a solution of 1-(4-chloro-phenyl)-2-(2-chloro-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester (I-5c, 3.6 g, 0.01 mol) in glacial acetic acid (50 ml) at room temperature. The reaction mixture was stirred for 17 hours, poured over ice-water, and treated with 25% aq. NaOH until the orange solution turned yellow. The aqueous solution was extracted with CH2Cl2 (3×) and the combined extracts were dried and concentrated in vacuo to give the desired compound I-5d as an oil (4.7 g): +APCI MS (M+1) 441.1; 1H NMR (CD3Cl) δ 1.41 (3H, t), 4.43 (2H, q), 7.08–7.12 (2H, m), 7.20–7.40 (7H, m).

reactant | Bromine | 0.07 mol, 3.6 ml | BrBr | Br2
reactant | 1-(4-chloro-phenyl)-2-(2-chloro-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester | 0.01 mol, 3.6 g | C(C)OC(=O)C=1N=C(N(C1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H14Cl2N2O2
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-1-(4-chloro-phenyl)-2-(2-chloro-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1Br)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H13BrCl2N2O2
